US07456289B2
A mixture of 1H-pyrrolo[2,3-b]pyridin-6-ol (0.200 g, 1.49 mmol) and K2CO3 (1 g, 7.45 mmol) in acetone (30 mL) was stirred under N2 at room temperature for 1 h. MeI (0.166 g, 1.192 mmol) was added. The reaction mixture was stirred under N2 at 50° C. for 12 h and then filtered. The filtrate was concentrated to half its volume, diluted with water, and extracted with CH2Cl2. The organic layer was dried over anhydrous MgSO4, and evaporated to give a residue, which was purified on a column of silica gel eluting with EtOAc/hexane (1:4) to give 6-methoxy-1H-pyrrolo[2,3-b]pyridine (159 mg, 89%).

reactant | 1H-pyrrolo[2,3-b]pyridin-6-ol | 1.49 mmol, 0.200 g | N1C=CC=2C1=NC(=CC2)O | C7H6N2O
reactant | K2CO3 | 7.45 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 1.192 mmol, 0.166 g | CI | CH3I
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 6-methoxy-1H-pyrrolo[2,3-b]pyridine | 159 mg, 89% | COC1=CC=C2C(=N1)NC=C2 | C8H8N2O
